US07943607B2
3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(5-methylpyrazin-2-yl)benzamide
Oxalyl chloride (0.17 mL, 1.94 mmol) and DMF (1 drop) were added to a solution of 3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzoic acid (625 mg, 1.56 mmol) in DCM (15 mL) and the mixture stirred at RT for 4 hours. The solvent was evaporated in vacuo to a residue which was added to a solution of 2-amino-5-methylpyrazine (255 mg, 2.34 mmol) and pyridine (0.64 mL, 7.8 mmol) in DCM (5 mL). The resultant mixture was heated at 60° C. in a microwave reactor for 5 minutes. The mixture was cooled to RT and pressure, the DCM was evaporated in vacuo to a residue which was partitioned between ethyl acetate (50 mL) and 1N citric acid (25 mL). The organic layer was washed with 1N citric acid (25 mL), brine, dried (MgSO4) and evaporated in vacuo to a residue which was chromatographed on silica, eluting with ethyl acetate, to give the desired compound (352 mg).

reactant | Oxalyl chloride | 1.94 mmol, 0.17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]benzoic acid | 1.56 mmol, 625 mg | C[C@@H](COC)OC=1C=C(C(=O)O)C=C(C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1 | C21H23NO7
reactant | 2-amino-5-methylpyrazine | 2.34 mmol, 255 mg | NC1=NC=C(N=C1)C | C5H7N3
reactant | pyridine | 7.8 mmol, 0.64 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{[(1S)-1-Methyl-2-(methyloxy)ethyl]oxy}-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 352 mg | C[C@@H](COC)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1 | C26H28N4O6
